US04374829
In the manner described in example 24, one can condense 2-oxo-4-phenylbutyric acid and L-histidinyl-L-leucine in the presence of sodium cyanoborohydride to yield N-(1-carboxy-3-phenylpropyl)-L-histidinyl-L-leucine.

reactant | 2-oxo-4-phenylbutyric acid | O=C(C(=O)O)CCC1=CC=CC=C1 | C10H10O3
reactant | L-histidinyl-L-leucine | N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C(=O)O | C12H20N4O3
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | N-(1-carboxy-3-phenylpropyl)-L-histidinyl-L-leucine | C(=O)(O)C(CCC1=CC=CC=C1)N[C@@H](CC1=CNC=N1)C(=O)N[C@@H](CC(C)C)C(=O)O | C22H30N4O5
